.SUBCKT 3input0x1A_X1_DH_P A1 A2 A3 VDD VSS Y
MM5 VSS A1 nor3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A2 nor3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VSS A3 nor3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n2 A2 nor3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 n1 A1 n2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A3 n1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 VDD A1 n3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 VDD A3 n3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM8 n4 A2 n3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 VDD A3 n5 VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 n5 A1 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 Y nor3 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM14 VSS nor3 Y VSS nmos_rvt w=46.0n l=16n nfin=2
MM12 Y A1 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM13 Y A3 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM15 VSS A2 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM16 n7 A3 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM17 n7 A1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
